US07071201B2
(60-1) 3-[2-(3-Fluorophenyl)vinyl]indole
A mixture of 4-bromoindole (1.0 g), which had been synthesized according to the method of J. Org. Chem. (1986, Vol. 5, No. 26, p. 5106.), 4-fluorophenylboronic acid (1.1 g), tetrakis(triphenylphosphine)palladium (0.24 g), a 10% aqueous solution (10 ml) of sodium carbonate and toluene (20 ml) was heated under reflux for 4 hr. Then ethyl acetate was added to the reaction solution and the layers were separated. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system). To the resulting residue was added trifluoroacetic acid (10 ml) and a 1 M solution (6.8 ml) of a borane/tetrahydrofuran complex in tetrahydrofuran followed by stirring the mixture at 0° C. for 1 hr. After adding water, the resultant mixture was concentrated under reduced pressure. Then ethanol and an aqueous solution of sodium hydroxide were added thereto and the reaction mixture was stirred for 30 min. After adding ethyl acetate to the reaction solution, the layers were separated and the organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (0.5 g) as a colorless oil (yield: 46%).

reactant | 4-bromoindole | 1.0 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | 4-fluorophenylboronic acid | 1.1 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.24 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2-(3-Fluorophenyl)vinyl]indole | 0.5 g, yield: 46% | FC=1C=C(C=CC1)C=CC1=CNC2=CC=CC=C12 | C16H12FN
